### PR TITLE
feat(RingTheory/AdicCompletion): monotonicity of adic-completeness

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AdicCompletion/Mono.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
...
+
+/-- The canonical map `lim M/IⁿM ⟶ lim M⧸JⁿM` if `I ≤ J`. -/
+def AdicCompletion.homOfLE : AdicCompletion I M →ₗ[R] AdicCompletion J M where
+  toFun v := ⟨fun i ↦ Submodule.mapQ _ _ .id
+      (Submodule.smul_mono (pow_le_pow_left' hIJ i) le_rfl) (v.1 i), by
+      intro m n hmn
+      obtain ⟨x, hx⟩ := Submodule.Quotient.mk_surjective _ (v.1 n)
+      simp [← v.2 hmn, ← hx]⟩
+  map_add' _ _ := by ext; simp
+  map_smul' _ _ := by ext; simp [AdicCompletion.val_smul]
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Mono.lean:39]: Is there a reason why you don't use `AdicCompletion.lift` here?

File: Mathlib/RingTheory/AdicCompletion/Mono.lean [hunk 2]
```diff
@@ -0,0 +1,96 @@
...
+-/
+import Mathlib.RingTheory.AdicCompletion.Basic
+import Mathlib.RingTheory.Finiteness.Ideal
+
+/-!
+
+## Monotonicity of adic-completeness
+
+We show that if `I ≤ J` and `I` is fg,
+then `M` is `J`-adic implies `M` is `I`-adic.
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Mono.lean:14]:
```suggestion
We show that if `I ≤ J` and `I` is fg,
then `M` is `J`-adic complete implies `M` is `I`-adic complete.
```

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 3]
```diff
@@ -367,7 +368,7 @@ theorem transitionMap_comp_eval {m n : ℕ} (hmn : m ≤ n) :
 /-- A sequence `ℕ → M` is an `I`-adic Cauchy sequence if for every `m ≤ n`,
 `f m ≡ f n` modulo `I ^ m • ⊤`. -/
 def IsAdicCauchy (f : ℕ → M) : Prop :=
-  ∀ {m n}, m ≤ n → f m ≡ f n [SMOD (I ^ m • ⊤ : Submodule R M)]
+  ∀ ⦃m n⦄, m ≤ n → f m ≡ f n [SMOD (I ^ m • ⊤ : Submodule R M)]
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:371]: Why is this better?

Comment (erdOne) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:371]: Dot notation wouldn't work without this because goals of type `IsAdicCauchy I f` will have their implicit arguments automatically introduced.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 4]
```diff
@@ -482,6 +484,16 @@ def mk : AdicCauchySequence I M →ₗ[R] AdicCompletion I M where
...
+/-- The canonical linear map sending an element to the constant cauchy sequence. -/
+@[simps]
+def AdicCauchySequence.of : M →ₗ[R] AdicCauchySequence I M where
+  toFun v := ⟨fun _ ↦ v, fun _ _ _ ↦ rfl⟩
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl
+
+lemma AdicCauchySequence.of_injective : Function.Injective (of I M) :=
+  fun _ _ h ↦ congr_fun (congr_arg Subtype.val h) 0
+
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:496]: Could you please move these up in the `AdicCauchySequence` section / namespace?

Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Basic.lean:496]: And could you please also add a `simp` lemma `AdicCauchySequence.mk_of (x : M) : AdicCauchySequence.mk (.of x) = .of x := sorry`? Possibly it is already proven by `simp`, then I think it is still useful for rewriting.

File: Mathlib/RingTheory/AdicCompletion/Basic.lean [hunk 5]
```diff
@@ -510,6 +522,29 @@ theorem induction_on {p : AdicCompletion I M → Prop} (x : AdicCompletion I M)
...
+lemma _root_.IsHausdorff.iff_injective :
+    IsHausdorff I M ↔ Injective (AdicCompletion.of I M) := by
+  simp [injective_iff_map_eq_zero, isHausdorff_iff, SModEq.zero, AdicCompletion.ext_iff]
+
+variable {I M} in
+lemma _root_.IsPrecomplete.iff_surjective :
+    IsPrecomplete I M ↔ Surjective (AdicCompletion.of I M) := by
+  simp [Function.Surjective, (AdicCompletion.mk_surjective I M).forall,
+    AdicCompletion.ext_iff, isPrecomplete_iff, AdicCauchySequence, Subtype.forall,
+    eq_comm (a := Submodule.Quotient.mk _)]
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Basic.lean:535]: Maybe move these after `end AdicCompletion` to get rid of the ugly `_root_`?

File: Mathlib/RingTheory/AdicCompletion/Mono.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RingTheory/AdicCompletion/Mono.lean:14]: Did you forget to change this or do you disagree?

File: Mathlib/RingTheory/AdicCompletion/Mono.lean [hunk 6]
```diff
@@ -0,0 +1,97 @@
...
+  exact Submodule.smul_mono (pow_le_pow_left' hIJ _) le_rfl
+
+include hIJ in
+variable {M} in
+lemma AdicCompletion.IsAdicCauchy.mono {f} (hf : IsAdicCauchy I M f) : IsAdicCauchy J M f :=
+  fun _ _ h ↦ (hf h).mono (Submodule.smul_mono (pow_le_pow_left' hIJ _) le_rfl)
+
+/-- The canonical map `lim M/IⁿM ⟶ lim M⧸JⁿM` if `I ≤ J`. -/
+noncomputable
+def AdicCompletion.homOfLE : AdicCompletion I M →ₗ[R] AdicCompletion J M := --where
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Mono.lean:33]:
```suggestion
def AdicCompletion.homOfLE : AdicCompletion I M →ₗ[R] AdicCompletion J M :=
```

File: Mathlib/RingTheory/AdicCompletion/Mono.lean [hunk 7]
```diff
@@ -0,0 +1,97 @@
...
+    simp_rw [Finset.smul_sum, Finset.sum_comm (s := s.attach), hv]
+    rw [add_comm, ← Finset.sum_range_add]
+    exact Submodule.smul_mono (Ideal.pow_le_pow_right (j.le_add_left _)) le_rfl (ha _)
+  rw [this]
+  refine neg_mem (sum_mem fun n _ ↦ Submodule.mem_set_smul_of_mem_mem n.2 trivial)
+
+include hIJ in
+open AdicCompletion in
+@[stacks 090T]
+lemma IsAdicComplete.mono (hI : I.FG) [IsAdicComplete J M] : IsAdicComplete I M := by
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Mono.lean:92]:
```suggestion
lemma IsAdicComplete.mono_of_FG (hI : I.FG) [IsAdicComplete J M] : IsAdicComplete I M := by
```

File: Mathlib/RingTheory/AdicCompletion/Mono.lean [hunk 8]
```diff
@@ -0,0 +1,97 @@
...
+@[simp]
+lemma AdicCompletion.homOfLE_mk (x) :
+    homOfLE hIJ M (.mk I M x) = .mk J M ⟨x.1, IsAdicCauchy.mono hIJ x.2⟩ := rfl
+
+@[simp]
+lemma AdicCompletion.homOfLE_of (x) :
+    homOfLE hIJ M (.of I M x) = .of J M x := homOfLE_mk hIJ M (.of I M x)
+
+open Pointwise in
+lemma AdicCompletion.homOfLE_injective (hI : I.FG) [IsAdicComplete J M] :
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Mono.lean:51]:
```suggestion
lemma AdicCompletion.homOfLE_injective_of_FG_of_isAdicComplete (hI : I.FG) [IsAdicComplete J M] :
```
maybe, or is it too long?

File: Mathlib/RingTheory/AdicCompletion/Mono.lean [hunk 9]
```diff
@@ -0,0 +1,97 @@
...
+  simp_rw [pow_add, mul_smul] at hf
+  obtain ⟨s, hs⟩ := hI.pow i
+  simp only [← hs, Submodule.span_smul_eq] at *
+  simp_rw [Submodule.set_smul_eq_range] at hf
+  choose v hv using hf
+  simp only [Finset.coe_sort_coe, Module.toModuleEnd_apply, Finsupp.coe_lsum, LinearMap.coe_comp,
+    Submodule.coe_subtype, Function.comp_apply, DistribMulAction.toLinearMap_apply, smul_zero,
+    ZeroMemClass.coe_zero, implies_true, Finsupp.sum_fintype, Finset.univ_eq_attach,
+    SetLike.val_smul] at hv
+  let v' (i : s) : AdicCompletion J M := .mk _ _ ⟨_, isAdicCauchy_sum_range (fun n ↦ (v n i).1)
```
Comment (chrisflav) [inline Mathlib/RingTheory/AdicCompletion/Mono.lean:70]: Could you please add a comment here explaining the strategy? Maybe assuming `I^i` is generated by one element would keep it instructional and still quick to explain?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
